US06903085B1
(i) Ethyl 4-(1H-benzimidazol-2-ylamino)-1-piperidinecarboxylate
A solution of 2-chlorobenzimidazole (1 g) and ethyl 4-amino-1-piperidinecarboxylate (2 g) in 1-methyl-2-pyrrolidinone was heated at 130° C. for 24 h. The mixture was partitioned between water and ethyl acetate, the organic layer washed with water, dried and evaporated under reduced pressure. Purification was by chromatography eluting with 1% triethylamine/5% methanol in dichloromethane. Yield 0.630 g as a solid.

reactant | 2-chlorobenzimidazole | 1 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | ethyl 4-amino-1-piperidinecarboxylate | 2 g | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
solvent | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | Ethyl 4-(1H-benzimidazol-2-ylamino)-1-piperidinecarboxylate | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C15H20N4O2
